US03985881
A solution of 20.6 g. of 1-aminomethyl-2-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline and 27.6 g. of 3,4,5-trimethoxybenzoyl chloride in 130 ml. of pyridine is left to stand overnight. The thus-precipitated 1-(3,4,5-trimethoxybenzamidomethyl)-2-[2-(3,4,5-trimethoxybenzoyloxy)-ethyl]-1,2,3,4-tetrahydroisoquinoline is filtered, washed with ether, and extracted with methanol; m.p. 236°-238°. The pyridine filtrate is evaporated, the residue is taken up in chloroform and washed several times with 5% potassium bicarbonate solution. After drying and evaporation, 1-(3,4,5-trimethoxybenzamidomethyl)-2-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline is obtained in this way; m.p. 138°-140° (from ethyl acetate).

reactant | 1-aminomethyl-2-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline | NCC1N(CCC2=CC=CC=C12)CCO | C12H18N2O
reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(3,4,5-trimethoxybenzamidomethyl)-2-(2-hydroxyethyl)-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C(=O)NCC2N(CCC3=CC=CC=C23)CCO)C=C(C1OC)OC | C22H28N2O5
